US07049310B2
c) 1-Methyl-3-(methylaminomethyl)-1H-pyrrolo[2,3-b]pyridine
According to the procedure of Preparation 13 (c), except substituting 1-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxaldehyde (0.4 g, 2.5 mmole) for the 1,3-dimethyl-1H-indole-2-carboxaldehyde, the title compound (0.2 g, 45%) was prepared as a yellow oil: MS (ES) m/e 176 (M+H)+.

reactant | 1-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxaldehyde | 2.5 mmole, 0.4 g | CN1C=C(C=2C1=NC=CC2)C=O | C9H8N2O
reactant | 1,3-dimethyl-1H-indole-2-carboxaldehyde | CN1C(=C(C2=CC=CC=C12)C)C=O | C11H11NO
product | 1-Methyl-3-(methylaminomethyl)-1H-pyrrolo[2,3-b]pyridine | 0.2 g, 45% | CN1C=C(C=2C1=NC=CC2)CNC | C10H13N3
